US06790867B2
Florfenicol/Flunixin Combination Formulations
The NMP and a portion of the polyethylene glycol 200 are charged to the compounding vessel. Florfenicol, methyl p-hydroxybenzoate and propyl p-hydroxybenzoate are added to the vessel and mixed until dissolved. Water is added, followed by the flunixin meglumine, and mixed until solids are dissolved. Q.S. to final volume with polyethylene glycol 200 if needed.

reactant | Florfenicol | CS(=O)(=O)C=1C=CC(=CC1)[C@H]([C@@H](CF)NC(=O)C(Cl)Cl)O | C12H14Cl2FNO4S
reactant | methyl p-hydroxybenzoate | COC(=O)C=1C=CC(=CC1)O | C8H8O3
reactant | propyl p-hydroxybenzoate | OC1=CC=C(C(=O)OCCC)C=C1 | C10H12O3
reactant | flunixin meglumine | CC1=C(C=CC=C1NC2=C(C=CC=N2)C(=O)O)C(F)(F)F.CNC[C@@H]([C@H]([C@@H]([C@@H](CO)O)O)O)O
solvent | Water | O | H2O
solvent | NMP | CN1CCCC1=O | C5H9NO
product | Florfenicol Flunixin | CS(=O)(=O)C=1C=CC(=CC1)[C@H]([C@@H](CF)NC(=O)C(Cl)Cl)O.CC1=C(C=CC=C1NC2=C(C=CC=N2)C(=O)O)C(F)(F)F | InChI=1S/C14H11F3N2O2.C12H14Cl2FNO4S/c1-8-10(14(15,16)17)5-2-6-11(8)19-12-9(13(20)21)4-3-7-18-12;1-21(19,20)8-4-2-7(3-5-8)10(17)9(6-15)16-12(18)11(13)14/h2-7H,1H3,(H,18,19)(H,20,21);2-5,9-11,17H,6H2,1H3,(H,16,18)/t;9-,10-/m.1/s1
